US05585485
2-(2-amino-4-thiazolyl-(Z)-2-[(1-ethoxycarbonylethoxy)imino]acetic Acid
17.2 g of (2-amino-4-thiazolyl)glyoxylic acid are added whilst cooling with ice to a solution of 14.6 g of O-(1-ethoxycarbonylethyl)hydroxylamine in 20 ml of dimethylformamide. The solution is stirred for 12 hours without cooling, and then diluted with 180 ml of methanol. In order to complete crystallisation, stirring continues for 5 hours at -5°, and then the product is filtered off by suction and dried. 24.7 g (86%) of the title compound are obtained. M.p.: 166°.

reactant | (2-amino-4-thiazolyl)glyoxylic acid | 17.2 g | NC=1SC=C(N1)C(C(=O)O)=O | C5H4N2O3S
reactant | O-(1-ethoxycarbonylethyl)hydroxylamine | 14.6 g | C(C)OC(=O)C(C)ON | C5H11NO3
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | methanol | 180 ml | CO | CH4O
product | 2-amino-4-thiazolyl-(Z)-2-[(1-ethoxycarbonylethoxy)imino]acetic Acid | 24.7 g, 86% | NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C)C(=O)OCC | C10H13N3O5S
